US07153997B2
A mixture of methyl-N-[3,5-dichloro-4-(5-isopropyl-4-methoxy-3-nitro-phenoxy)benzoyl]glycine (380 mg, 0.81 mmol) and PtO2 (40 mg) in ethyl acetate (10 mL) was stirred at room temperature under hydrogen (atmospheric pressure) for 24 h. Pt catalyst was removed by filtration through celite and the filtrate was concentrated, which was purified on column (silica gel, n-heptane/ethyl acetate, gradient elution from 98:2 to 60:40) to give 320 mg (89%) of methyl-N-[3,5-dichloro-4-(3-amino-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine.

reactant | methyl-N-[3,5-dichloro-4-(5-isopropyl-4-methoxy-3-nitro-phenoxy)benzoyl]glycine | 0.81 mmol, 380 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)OC)[N+](=O)[O-])Cl)=O | C20H20Cl2N2O7
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 40 mg | O=[Pt]=O
product | methyl-N-[3,5-dichloro-4-(3-amino-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine | 320 mg, 89% | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)OC)N)Cl)=O | C20H22Cl2N2O5
